US04690923
8-Ethylthio-4-(1-oxido-thiomorpholino)-2-piperazino-pyrimido-[5,4-d]-pyrimidine
A solution of 3,4 gm (0.01 mol) of 8-ethylthio-2-chloro-4-(1-oxido-thiomorpholino)-pyrimido-[5,4-d]-pyrimidine (m.p. 197°-199° C.) in 100 ml of dimethylsulfoxide was slowly poured, while stirring, into a solution of 4.3 gm (0.05 mol) of piperazine in 75 ml of dimethylsulfoxide at 40° C., and the mixture was stirred for 1 hour at 40° C. The reaction mixture was then taken up in about 1 liter of water, whereby the reaction product slowly precipitated in crystalline form. After standing for a short period of time, the precipitate was suction-filtered off, washed with water and dried at about 70° C.

reactant | 8-ethylthio-2-chloro-4-(1-oxido-thiomorpholino)-pyrimido-[5,4-d]-pyrimidine | 0.01 mol, 3,4 gm | C(C)SC1=NC=NC2=C1N=C(N=C2N2CCS(CC2)=O)Cl | C12H14ClN5OS2
reactant | piperazine | 0.05 mol, 4.3 gm | N1CCNCC1 | C4H10N2
solvent | dimethylsulfoxide | 100 ml | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 75 ml | CS(=O)C | C2H6OS
solvent | water | about 1 liter | O | H2O
product | 8-Ethylthio-4-(1-oxido-thiomorpholino)-2-piperazino-pyrimido-[5,4-d]-pyrimidine | C(C)SC1=NC=NC2=C1N=C(N=C2N2CCS(CC2)=O)N2CCNCC2 | C16H23N7OS2
